US08114871B2
tert-Butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
Reagent 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate, E1(I), (10.97 g, 33.9 mmol) was dissolved in MeOH (200 mL) after which NaOH (5 eq, 169 mmol) was added. After stirring the mixture at room temperature for 3 h, the starting material disappeared. After removal of MeOH, add H2O and AcOEt was added, and the product was extracted with AcOEt and dried over Na2SO2 followed by concentration to afford E1(II).

reactant | 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C15H24N4O4
reactant | NaOH | 169 mmol, 5 eq | [OH-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | tert-Butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
